US07176222B2
A 22 L 3-neck RBF equipped with a cooling bath, an addition funnel, mechanical stirrer, thermocouple and nitrogen bubbler was purged with nitrogen for at least ten minutes. The flask was charged with 0.612 kg (2.43 mol) 1-[(R)-3-(3-amino-5-fluoro-phenoxy) -piperidin-1-yl]-ethanone and 12.2 L (20 vol) ethyl acetate. The solution was cooled to 0±5° C. in an ice/brine bath, and 1.46 L (2.92 mol) 2M HCl in ether was added dropwise for 20 minutes, maintaining the internal temperature below 10° C. The solution stirred for 2 hours at 0±5° C., and the solid was filtered under a nitrogen atmosphere and rinsed with 6.0 L (10 vol) ethyl acetate. The solid was dried at 50±5° C. under vacuum for 2 days to afford 693 g of 1-[(R)-3-(3-amino-5-fluoro-phenoxy)-piperidin-1-yl]-ethanone HCl salt in 99% yield as an off-white solid (theoretical yield=0.700 kg, purity=94.2% and 97.6% ee).

reactant | 1-[(R)-3-(3-amino-5-fluoro-phenoxy) -piperidin-1-yl]-ethanone | 2.43 mol, 0.612 kg | NC=1C=C(O[C@H]2CN(CCC2)C(C)=O)C=C(C1)F | C13H17FN2O2
reactant | ethyl acetate | 12.2 L | C(C)(=O)OCC | C4H8O2
reactant | HCl | 2.92 mol, 2M, 1.46 L | Cl | ClH
solvent | ether | CCOCC | C4H10O
product | 1-[(R)-3-(3-amino-5-fluoro-phenoxy)-piperidin-1-yl]-ethanone HCl salt | 693 g, 99% yield | Cl.NC=1C=C(O[C@H]2CN(CCC2)C(C)=O)C=C(C1)F | InChI=1S/C13H17FN2O2.ClH/c1-9(17)16-4-2-3-12(8-16)18-13-6-10(14)5-11(15)7-13;/h5-7,12H,2-4,8,15H2,1H3;1H/t12-;/m1./s1
